* C:\Users\Ian Diaz\Desktop\ITBA\TC\TP05\Ex3\Simulation\Calculando impedancias\Valores Redondeados.asc
Ra1_1 N001 0 {Ra1_1}
Ra2_1 N001 in {Ra2_1}
R41_1 N005 0 {R41_1}
R42_1 N005 in {R42_1}
C3_1 N008 N005 {C3_1}
C22_1 N008 in {C22_1}
R1_1 N002 N008 {R1_1}
C21_1 N008 0 {C21_1}
Rb_1 N002 N001 {Rb_1}
V1 VCC 0 15
V2 0 VEE 15
Ra1_2 N003 0 {Ra1_2}
Ra2_2 N003 N002 {Ra2_2}
R41_2 N006 0 {R41_2}
R42_2 N006 N002 {R42_2}
C3_2 N009 N006 {C3_2}
C22_2 N009 N002 {C22_2}
R1_2 N004 N009 {R1_2}
C21_2 N009 0 {C21_2}
Rb_2 N004 N003 {Rb_2}
V3 N007 0 PULSE(-5 5 5e-4 0.0000001 0.0000001 5e-4 1e-3 4)
XU3 N002 N001 N005 VEE VCC LM833
XU1 N004 N003 N006 VEE VCC LM833
XU2 Vi in VCC VEE in TL082
R1 Vi N007 50
* Etapa 1
* Etapa 2
.param C21_1 4.7e-09
.param C22_1 3.9e-10
.param C3_1 4.7e-09
.param Ra1_1 68.0
.param Ra2_1 3000.0
.param R41_1 270.0
.param R42_1 12000.0
.param R1_1 2400.0
.param Rb_1 1000
.param C21_2 3.9e-10
.param C22_2 4.7e-09
.param C3_2 4.7e-09
.param Ra1_2 12000.0
.param Ra2_2 15000.0
.param R41_2 6200.0
.param R42_2 12000.0
.param R1_2 430.0
.param Rb_2 1000
.tran 0 3e-3 0
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\sym\AutoGenerated\LM833.LIB
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\TL082.mod
.backanno
.end
